US08859541B2
C2a) tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate
A mixture of 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid (36 g, 177 mmol) and N,N′-dicyclohexylcarbodiimide (22.5 g, 109 mmol) in DCM (150 ml) is stirred with ice bath cooling for 30 minutes. A solution of 5-bromo-6-(2-phenylethynyl)pyridin-2-amine B2a (20 g, 73.2 mmol) in DCM (100 ml) is added. After stirring for 7 days at RT the reaction mixture is diluted with DCM and extracted with water. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by NP chromatography. Yield: 25 g (74%). HPLC-MS: M+H=458/460; tR=2.33 min (*Method—1).

reactant | 2-[methyl-[(2-methylpropan-2-yl)oxycarbonyl]amino]propanoic acid | 177 mmol, 36 g | CN(C(C(=O)O)C)C(=O)OC(C)(C)C | C9H17NO4
reactant | N,N′-dicyclohexylcarbodiimide | 109 mmol, 22.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-bromo-6-(2-phenylethynyl)pyridin-2-amine | BrC=1C=CC(=NC1C#CC1=CC=CC=C1)N | C13H9BrN2
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl-N-[1-[[5-bromo-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)Br)C#CC1=CC=CC=C1)C)=O | C22H24BrN3O3
